US08877759B2
Di tert butyl dicarbonate (400.9 mg, 422.0 μL, 1.837 mmol) was added to a stirred solution of ethyl 4-(1-amino-2-fluoro-ethyl)benzoate (352.8 mg, 1.670 mmol) and N,N-diethylethanamine (185.9 mg, 256.1 μL, 1.837 mmol) in dichloromethane (10 mL) and the reaction stirred at ambient temperature for 3.5 hours. The reaction mixture was washed with saturated aqueous sodium bicarbonate solution (×2) and brine (×1) and the organic extract dried (MgSO4), filtered and concentrated in vacuo. Purification by column chromatography (ISCO Companion, 24 g column) loaded in dichloromethane eluted with 0 to 40% ethyl acetate/petroleum ether. Product fractions were combined and concentrated in vacuo to give ethyl 4-[1-(tert-butoxycarbonylamino)-2-fluoro-ethyl]benzoate as a white solid (166 mg, 32%). 1H NMR (400.0 MHz, DMSO-d6) δ 1.32 (t, 3H), 1.99 (s, 9H), 4.32 (q, 2H), 4.41-4.44 (m, 1H), 4.53-4.56 (m, 1H), 4.90-4.99 (m, 1H), 7.51 (d, 2H), 7.79 (d, 2H) and 7.94 (d, 1H) ppm; LC/MS m/z 256.2 [M+H]+.

reactant | Di tert butyl dicarbonate | 1.837 mmol, 422.0 μL, 400.9 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl 4-(1-amino-2-fluoro-ethyl)benzoate | 1.670 mmol, 352.8 mg | NC(CF)C1=CC=C(C(=O)OCC)C=C1 | C11H14FNO2
reactant | N,N-diethylethanamine | 1.837 mmol, 256.1 μL, 185.9 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | ethyl 4-[1-(tert-butoxycarbonylamino)-2-fluoro-ethyl]benzoate | 166 mg, 32% | C(C)(C)(C)OC(=O)NC(CF)C1=CC=C(C(=O)OCC)C=C1 | C16H22FNO4
